US04259336
(e) Methyl 7-chloro-4-hydroxy-2-methyl-2H-[1]-benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide
Prepared analogous to Example 1(e) from methyl 6-chloro-3-{[(ethoxycarbonyl-methyl)-methylamino]sulfonyl}-benzo[b]-thiophene-2-carboxylate by reaction with sodium methylene in anhydrous methanol with a yield of 35% of theory.

reactant | methyl 6-chloro-3-{[(ethoxycarbonyl-methyl)-methylamino]sulfonyl}-benzo[b]-thiophene-2-carboxylate | ClC=1C=CC2=C(SC(=C2S(=O)(=O)N(C)CC(=O)OCC)C(=O)OC)C1 | C15H16ClNO6S2
solvent | methanol | CO | CH4O
product | Methyl 7-chloro-4-hydroxy-2-methyl-2H-[1]-benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | yield of 35% | ClC1=CC2=C(C=C1)C1=C(C(=C(N(S1(=O)=O)C)C(=O)OC)O)S2 | C13H10ClNO5S2
